US08808960B2
Three parts of benzoic acid was mixed with 2.6 parts of 2-methyl-butane-2,4-diol, 0.6 part of 4-dimethylaminopyridine and 45 parts of dehydrated tetrahydrofuran. To the obtained mixture, 5.6 parts of N,N′-dicyclohexylcarbodiimide was added, and then the obtained mixture was stirred at room temperature for 24 hours. The resultant mixture was filtrated and the filtrate was concentrated. To the residue, 33 parts of methyl tert-butyl ether was added and then, 17 parts of 2% aqueous oxalic acid solution was added. The resultant mixture was stirred and filtrated. The filtrate was separated into an organic layer and an aqueous layer. The organic layer was washed five times with ion-exchanged water and then dried over 3.1 parts of magnesium sulfate. The mixture was filtrated and the obtained filtrate was concentrated. The obtained residue was mixed with 6 parts of methyl tert-butyl ether and the resultant mixture was filtrated. The filtrate was concentrated to obtain 4.8 parts of 3-methyl-3-hydroxybutyl benzoate as colorless oil. This compound is called as Compound (G).

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-methyl-butane-2,4-diol | CC(C)(CCO)O | C5H12O2
reactant | N,N′-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-3-hydroxybutyl benzoate | C(C1=CC=CC=C1)(=O)OCCC(C)(O)C | C12H16O3
